US05491145
Production of 6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)-7-methylimidazo[1,2-b]pyridazine hydrochloride
0.503 g of 6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)-7-methylimidazo[1,2-b]pyridazine was suspended in 15 ml of ethanol. To this suspension, 1.8 ml of 1 N hydrochloric acid was added. After the resulting solution was concentratedunder reduced pressure, ethanol-ethyl ether (4:1) was added to the residue to cause crystallization to yield 0.533 g of the title compound.

reactant | 6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)-7-methylimidazo[1,2-b]pyridazine | 0.503 g | CC(COC=1C(=CC=2N(N1)C=CN2)C)(CS(N)(=O)=O)C | C12H18N4O3S
reactant | hydrochloric acid | 1 N, 1.8 ml | Cl | ClH
reactant | ethanol ethyl ether | C(C)O.C(C)OCC
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-(2,2-dimethyl-3-sulfamoyl-1-propoxy)-7-methylimidazo[1,2-b]pyridazine hydrochloride | 0.533 g | Cl.CC(COC=1C(=CC=2N(N1)C=CN2)C)(CS(N)(=O)=O)C | InChI=1S/C12H18N4O3S.ClH/c1-9-6-10-14-4-5-16(10)15-11(9)19-7-12(2,3)8-20(13,17)18;/h4-6H,7-8H2,1-3H3,(H2,13,17,18);1H
